US06310056B1
b) (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-methyl-1-carbapen-2-em-3-carboxylic Acid
To a solution of 4.70 g of 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-methyl-1-carbapen-2-em-3-carboxylate in 10 ml of THF and 10 ml of {fraction (1/15)} M phosphate buffer was added 240 mg of 10% Pd-C. The reactor was purged with hydrogen, and the reaction mixture was stirred at room temperature for 3 hours. The catalyst was collected by filtration and washed with water. The filtrate was washed with ethyl acetate, and the aqueous layer was purified by column chromatography on DIAION HP-20 to give 27.5 mg of the title compound.

reactant | 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-methyl-1-carbapen-2-em-3-carboxylate | 4.70 g | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C=2N3C(SC2)=CN=C3)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C22H20N4O6S
reactant | phosphate | P(=O)([O-])([O-])[O-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | Pd-C | 240 mg | [Pd] | Pd
product | (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-methyl-1-carbapen-2-em-3-carboxylic Acid | 27.5 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C=2N3C(SC2)=CN=C3)C(=O)O)C1=O | C15H15N3O4S
